US05977365
5-[4-(1-Methylindolin-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 2.0 g of 1-methylindolin-2-ylmethanol (prepared as described in Preparation 6), 4.73 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione, 2.53 ml of tributylphosphine, 2.57 g of 1,1'-(azodicarbonyl)dipiperidine and 55 ml of benzene were used, to give 4.39 g of the title compound, melting at 62.5-65.5° C.

reactant | 1-methylindolin-2-ylmethanol | 2.0 g | CN1C(CC2=CC=CC=C12)CO | C10H13NO
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 4.73 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 2.53 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 2.57 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 55 ml | C1=CC=CC=C1 | C6H6
product | 5-[4-(1-Methylindolin-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione | 4.39 g | CN1C(CC2=CC=CC=C12)COC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C39H34N2O3S
